US07465745B2
Synthesis of Morpholine-4-carboxylic acid {(S)-1-[4-cyano-1-(3-methoxy-propyl)-piperidin-4-ylcarbamoyl]-4,4-dimethyl-hexyl}-amide
A solution of (S)-5,5-Dimethyl-2-[(morpholine-4-carbonyl)-amino]-heptanoic acid (4.70 g, 16.4 mmol) in dichloromethane (75 mL), cooled in an ice water bath, was treated with HOBT (2.45 g, 18.13 mmol), then EDC (3.47 g, 18.1 mmol). The reaction mixture was stirred with cooling for 35 min, then the ice bath was removed and a solution of 4-amino-(3-methoxy-propyl)-piperidine-4-carbonitrile (3.61 g, 18.3 mmol) in dichloromethane (25 mL) was added. The reaction mixture was stirred overnight, then concentrated on a rotary evaporator. The resulting residue was taken up in ethyl acetate (300 mL) and washed with saturated sodium bicarbonate solution (2×300 mL). The organic phase was then dried (magnesium sulfate) and concentrated to provide 8.1 grams of crude material. This material was further purified on a shimadzu reverse phase hplc using a gradient of acetonitrile in water (40 to 65% over 35 min flow rate 45 mL/min) to provide 1.18 g (25.8%) of the desired product as a white crunchy foam; m/z calculated for C24H43N5O4 465.6, found 466.6 (M+H)+

reactant | (S)-5,5-Dimethyl-2-[(morpholine-4-carbonyl)-amino]-heptanoic acid | 16.4 mmol, 4.70 g | CC(CC[C@@H](C(=O)O)NC(=O)N1CCOCC1)(CC)C | C14H26N2O4
reactant | HOBT | 18.13 mmol, 2.45 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 18.1 mmol, 3.47 g
reactant | 4-amino-(3-methoxy-propyl)-piperidine-4-carbonitrile | 18.3 mmol, 3.61 g | NC1(CCN(CC1)CCCOC)C#N | C10H19N3O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | Morpholine-4-carboxylic acid {(S)-1-[4-cyano-1-(3-methoxy-propyl)-piperidin-4-ylcarbamoyl]-4,4-dimethyl-hexyl}-amide | 1.18 g, 25.8% | C(#N)C1(CCN(CC1)CCCOC)NC(=O)[C@H](CCC(CC)(C)C)NC(=O)N1CCOCC1 | C24H43N5O4
